Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / codeine / acetaminophen / oxycodone
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with CLL on ibrutinib, HTN, T2DM, SSS s/p PPM (A-paced, 
LRL appears ~50), hx of AF on Xarelto, CAD s/p ___ LHC with 
DES (? x2) placed in mid-LAD, now presenting with constant 
___ chest pain on left radiating down arm. Chest pain is 
described as a central substernal chest "pressure", like a "fist 
into the chest". Patient did not have nitroglycerin at home. 
Chest pain was precipitated by him walking his dog at around 
___ on ___. Pain was accompanied by shortness of breath. 
Reports he feels worse than the chest pain that brought him in 
with the LAD occlusion. Received ASA 325mg via EMS. Given 2 
nitro by EMS as well with some improvement in his chest pain. 
EMS stated he had one episode ___ beat run of NSVT in ambulance. 
 
 In the ED, initial vitals: T 97.9, HR 62, BP 145/63, 16, 95%RA  

 - Later vitals in the ED notable for bradycardia (with 
intermittent A-pacing dependency) between 50-65.  
 - Exam notable for: RRR, no murmurs, clear lungs, trace edema
 - Labs notable for:  Trop <.01 x2, Na 128, WBC 11.9, Hgb 8.9 
(9.9)
 - Imaging notable for:  unremarkable CXR
 - Patient given:  ASA 325 by EMS
___ 00:23 IV HYDROmorphone (Dilaudid) .5 mg 
___ 01:38 IV HYDROmorphone (Dilaudid) .5 mg   
___ 03:24 PO/NG Gabapentin 300 mg   
___ 03:24 PO/NG TraZODone 300 mg   
___ 03:24 IV Heparin Started 1000  
___ 03:24 IV DRIP Nitroglycerin (0.35-3.5 mcg/kg/min 
ordered) Started 0.35 mcg/kg/min 
___ 05:19 IV DRIP Nitroglycerin Stopped - Unscheduled  
___ 06:16 IV Heparin  Confirmed No Change in Rate, rate 
continued at 1000 units/hr 
___ 08:44 PO Divalproex (EXTended Release) 250 mg 
___ 08:44 IV Heparin  Stopped (5h ___  
___ 09:24 IV HYDROmorphone (Dilaudid) .5 mg   

 - Vitals prior to transfer:   98.0  50  119/56  12  100% RA 
 
On arrival to the floor, pt reports chest pain ___ from ___ 
with dilaudid .5 adm in ED 45 minutes ago. Denies associated sx, 
n/v, headache, shortness of breath, palpitations. Reports 
feeling well after stent, no pain or shortness of breath until 
___. Pain has persisted since onset with only slight relief 
from nitro or dilaudid.
 
Past Medical History:
CLL
PPM for bradycardia
Stroke in ___
HTN
HLD
DM
 
Social History:
___
Family History:
- no cancer or stroke
 
Physical Exam:
Vitals:  97.6  175/34  55  16  96RA BP re-check 120/70
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Bradycardic, regular, normal S1 + S2, II/VI systolic murmur 
best heard   
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis, 1+ edema to mid-shins  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact.  

 
Pertinent Results:
___ 11:05PM BLOOD WBC-11.9* RBC-3.25* Hgb-8.9* Hct-27.1* 
MCV-83 MCH-27.4 MCHC-32.8 RDW-14.2 RDWSD-42.9 Plt ___
___ 11:05PM BLOOD Neuts-45.0 ___ Monos-7.0 Eos-1.4 
Baso-0.5 Im ___ AbsNeut-5.36 AbsLymp-5.41* AbsMono-0.83* 
AbsEos-0.17 AbsBaso-0.06
___ 11:05PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Ovalocy-1+ Tear 
___
___ 11:05PM BLOOD ___ PTT-38.7* ___
___ 11:05PM BLOOD Glucose-122* UreaN-9 Creat-0.9 Na-128* 
K-3.9 Cl-91* HCO3-23 AnGap-18
___ 11:05PM BLOOD ALT-17 AST-18 AlkPhos-45 TotBili-<0.2
___ 11:05PM BLOOD Lipase-62*
___ 06:32AM BLOOD cTropnT-<0.01
___ 11:05PM BLOOD cTropnT-<0.01
___ 06:32AM BLOOD CK-MB-3
___ 11:05PM BLOOD Albumin-3.6 Calcium-8.9 Phos-4.6* Mg-1.6
___ 11:05PM BLOOD Osmolal-263*
 
Brief Hospital Course:
___ with CLL, HTN, HLD, T2DM, CAD s/p stenting to LAD on 
___, presenting with ___ chest pain concerning for unstable 
angina.
  
 # Chest Pain / Hx CAD: Clinical history is concerning for ACS. 
S/p 2x DES to the LAD on ___ for a 70% stenosis. Patient was 
reportedly out walking when the pain started and he clearly 
describes ___ chest pressure like a "fist into his chest". 
Partially responsive to nitro gtt and dilaudid, but also 
reproducible on exam. Heparin gtt started initially, but 
cardiology consultant recommended discontinuation. Recent cath 
with single vessel disease now s/p PCI. No biomarker elevation 
or EKG change to raise concern for stent thrombosis. Patient has 
no untreated disease to cause ischemic symptoms. No indication 
to re-cath. Reproducible pain points toward non-cardiac 
etiology. Discussion with outpatient provider indicates pain 
contract and possible history of drug-seeking behavior. He was 
given home medications, re-assured about the non-cardiac nature 
of his chest pain and discharged home. 

 # SSS s/p Pacemaker: A-paced in ___ this admission. 
Normotensive at this rate off nitro gtt.  

 # H/o AFib:  
 - continued home xeralto

 # Hypertension:  
 - continued home metoprolol and losartan
  
 # CLL:  
 - Patient should continue ibrutinib at home 

 # T2DM:  
 - Home insulin continued and metformin held while inpatient. No 
changes to home regimen on discharge

 # Depression & Cognitive Impairment:   
 - Continued home ziprasidone, fluoxetine and divalproex  
 
 CHRONIC ISSUES  
 # Hyperlipidemia: Continue atorvastatin 80mg QHS  
 # Depression: Continue high dose trazodone which is his home 
medication.  
 # Hypothyroidism: Continue home levothyroxine.  
 # R Hip Pain due to bursitis: Has required Vicodin BID as well 
as gabapentin and Depakote.  

 CORE MEASURES  
 # CODE STATUS: Presumed Full  
 # CONTACT: ___ (___)
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Divalproex (EXTended Release) 500 mg PO BID 
6. Divalproex (EXTended Release) 250 mg PO QHS 
7. FLUoxetine 30 mg PO DAILY 
8. Furosemide 20 mg PO DAILY 
9. Gabapentin 300 mg PO TID 
10. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID 
11. Levothyroxine Sodium 50 mcg PO DAILY 
12. Losartan Potassium 50 mg PO DAILY 
13. Magnesium Oxide 400 mg PO BID 
14. Metoprolol Tartrate 12.5 mg PO BID 
15. Pantoprazole 40 mg PO Q24H 
16. Senna 17.2 mg PO BID:PRN constipation 
17. TraZODone 300 mg PO QHS 
18. MetFORMIN (Glucophage) 1000 mg PO BID 
19. Fenofibrate 150 mg PO DAILY 
20. dextrose-maltodextrin 10 gram/11.5 gram oral DAILY:PRN 
21. Capsaicin 0.025% 1 Appl TP QID shoulder pain 
22. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation QID:PRN 
23. Multivitamins 2 TAB PO DAILY 
24. Vitamin D ___ UNIT PO EVERY MONTH 
25. ZIPRASidone Hydrochloride 40 mg PO BID 
26. ibrutinib 420 mg oral DAILY 
27. Sodium Chloride Nasal ___ SPRY NU QID:PRN congestion 
28. Clopidogrel 75 mg PO DAILY 
29. Rivaroxaban 10 mg PO DAILY 
30. Glargine 56 Units Breakfast
Glargine 56 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation QID:PRN  

2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H  
5.  Capsaicin 0.025% 1 Appl TP QID shoulder pain  
6.  Clopidogrel 75 mg PO DAILY  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  dextrose-maltodextrin 10 gram/11.5 gram oral DAILY:PRN  
9.  Divalproex (EXTended Release) 500 mg PO BID  
10.  Divalproex (EXTended Release) 250 mg PO QHS  
11.  Fenofibrate 150 mg PO DAILY  
12.  FLUoxetine 30 mg PO DAILY  
13.  Furosemide 20 mg PO DAILY  
14.  Gabapentin 300 mg PO TID  
15.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID  
16.  ibrutinib 420 mg oral DAILY  
17.  Glargine 56 Units Breakfast
Glargine 56 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
18.  Levothyroxine Sodium 50 mcg PO DAILY  
19.  Losartan Potassium 50 mg PO DAILY  
20.  Magnesium Oxide 400 mg PO BID  
21.  MetFORMIN (Glucophage) 1000 mg PO BID  
22.  Metoprolol Tartrate 12.5 mg PO BID  
23.  Multivitamins 2 TAB PO DAILY  
24.  Pantoprazole 40 mg PO Q24H  
25.  Rivaroxaban 10 mg PO DAILY  
26.  Senna 17.2 mg PO BID:PRN constipation  
27.  Sodium Chloride Nasal ___ SPRY NU QID:PRN congestion  
28.  TraZODone 300 mg PO QHS  
29.  Vitamin D ___ UNIT PO EVERY MONTH  
30.  ZIPRASidone Hydrochloride 40 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Atypical chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ because you were having chest pain. We 
evaluated you very carefully and determined that you were not 
having a heart attack and that your pain is very likely not 
coming from your heart. Your symptoms are probably coming from 
your ribs and the muscles of your chest. We recommend Tylenol 
and your home pain medication for this. You can follow up with 
your usual doctor to see if there is anything else that can be 
done to help this pain. 

Best wishes,
Your ___ Care Team
 
Followup Instructions:
___